Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Septic shock
 
Major Surgical or Invasive Procedure:
Central line placement
 
History of Present Illness:
Ms. ___ is an ___ female with PMH significant for c.diff 
sepsis, CAD, and atrial fibrillation who is being admitted to 
the MICU for septic shock. Patient was recently discharged to 
rehab on ___ after being hospitalized for septic shock thought 
to be ___ c. diff infection. She underwent an elective left 
total hip replacement at ___ on ___. She subsequently developed 
diarrhea and was admitted to an OSH in ___ and was found to be 
positive for c.diff toxin. She underwent an CT abd/pelvis during 
this time which showed diffuse colonic wall thickening with 
generalized mesenteric inflammation/edema. She was then 
transferred to ___ for further work-up and during this time 
required pressors to maintain her blood pressure. 
During her recent admission, she was admitted to the FICU. She 
completed a course of PO Vancomycin for c.diff. Her hospital 
course was also complicated by acute on chronic diastolic CHF 
and she was placed on a Lasix gtt and was diuresed aggressively. 
She also went into afib with RVR and was loaded with Amiodarone 
and was anti-coagulated on Coumadin. She was already on Coumadin 
given her history of DVT. She was discharged to ___ 
___ on ___.
This evening, the patient was found to be lethargic and febrile 
to 102.5. Blood and urine cultures were drawn and her urine was 
noted to be concentrated, foul, and dark.  She received Tylenol 
2gm and was started on IVFs. In route to ___, she was 
hypotensive and received IVFs. 
In the ED, initial vitals were T 100.8 Tmax 101.5 BP 71/56 AR 96 
RR 16 O2 sat 91% RA, 96% on 4L. She received Vancomycin, Cipro 
400mg IV, and Flagyl 500mg IV. A RIJ central line was placed and 
she received a total of 4L NS. 
 
Past Medical History:
1)CAD s/p stenting of LCx and RCA per ___ cath report ___
3)C. diff colitis 
___ DVT 
5)HTN
6)Hyperlipidemia
7)Urinary incontinence
8)Osteoporosis
9)s/p ORIF and LTH 
10)s/p hepatobiliary surgery
___ hysterectomy
12)s/p cholecystectomy
___ RTK x 1, LTK x 2
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
vitals T 97.6 BP 87/45 AR 120 RR 15 O2 sat 100% on NRB
Gen: Awake and alert, mentating well
HEENT: MMM
Heart: Irregularly irregular, ___ systolic murmur
Lungs: CTAB, crackles at posterior bases
Abdomen: Soft, NT/ND, +BS
Extremities: ___ ___ pulses bilaterally; PICC line in place
 
Pertinent Results:
___ 09:05PM BLOOD WBC-22.4*# RBC-3.08* Hgb-9.2* Hct-27.4* 
MCV-89 MCH-29.9 MCHC-33.6 RDW-16.1* Plt ___
___ 05:48AM BLOOD WBC-8.9 RBC-3.80* Hgb-11.2* Hct-34.8* 
MCV-92 MCH-29.4 MCHC-32.1 RDW-15.7* Plt ___
___ 09:05PM BLOOD Glucose-78 UreaN-33* Creat-1.0 Na-137 
K-3.9 Cl-106 HCO3-19* AnGap-16
___ 05:48AM BLOOD Glucose-80 UreaN-19 Creat-0.8 Na-140 
K-3.9 Cl-115* HCO3-20* AnGap-9
___ 05:41PM BLOOD Albumin-2.9* Calcium-7.1* Phos-2.4* 
Mg-1.7
___ 05:48AM BLOOD Calcium-7.9* Phos-3.0 Mg-1.8
___ 07:23AM BLOOD Vanco-17.8
___ 09:05PM BLOOD cTropnT-0.02*
___ 02:49AM BLOOD CK-MB-NotDone cTropnT-0.01
___ 09:05PM BLOOD CK(CPK)-19*
___ 02:49AM BLOOD CK(CPK)-21*
.
C. diff ___:
CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
FECES POSITIVE FOR C. DIFFICILE TOXIN BY EIA. 
.
CXR ___:
The right internal jugular line tip terminates in mid-distal 
SVC. The right PICC line demonstrated on the prior study cannot 
be seen on the current exam, most likely removed in the meantime 
interval. Significant dextroscoliosis is again noted with 
subsequent left mediastinal shift. There is no change in the 
appearance of the cardiac silhouette. Interval increase of the 
bilateral right more than left pleural effusions is present with 
overall no appreciable change in the degree of vascular 
engorgement. No overt pulmonary edema is demonstrated. There is 
no pneumothorax. 
.
Left wrist film due to wrist pain ___:
IMPRESSION:   
1. No acute fracture. 
2. Widening of the scapholunate interval is compatible 
scapholunate 
ligamentous injury. 
3. Severe degenerative changes of the STT and first CMC joints. 
Apparent 
collapse of the trapezoid and trapezium as described. 
.
___ previous admission L UE U/S:
IMPRESSION: No evidence of DVT of the left upper extremity.
 
Brief Hospital Course:
Ms. ___ is an ___ female with PMH as listed above who 
presents with septic shock. 

1)Septic shock: Patient presented with hypotension, tachycardia, 
leukocytosis which was consistent with diagnosis of septic 
shock. She started having increasing amounts of diarrhea at the 
rehab facility and her urine was noted to be dark, concentrated, 
and foul smelling at rehab. She was recently admitted to ___ 
MICU for sepsis ___ c.diff. On admission, sepsis protocol was 
initiated. She was pan-cultured and started on broad spectrum 
antibiotics-Cipro, Vancomycin IV, PO Vancomycin, and Flagyl. The 
c.diff toxin came back positive. Her antibiotic regimen was 
weaned down to Flagyl IV and PO vancomycin. She should continue 
Flagyl for ___nd she should continue the Vancomycin 
PO which should be tapered over the next few months. 
Vancomycin taper as follows:
125mg PO four times daily for 6 days (last dose q6hrs is on 
___
125mg PO twice daily for 7 days
125mg once daily for 7 days
125mg every other day for 7 days
125mg every 3 days for 14 days

2)Diastolic CHF: Patient has history of diastolic CHF and 
required aggressive diuresis with a lasix gtt during her last 
admission. Cardiac enzymes were negative. She initially appeared 
volume overloaded on exam but is likely intravascularly dry 
based on her CVP since she presented with sepsis. Her Lasix was 
held given her hypotension and then restarted. She was restsrted 
on her home lasix regimen of lasix 20mg PO BID.

3)Atrial fibrillation: Patient first diagnosed with afib w/RVR 
during last admission. She is also anticoagulated with Coumadin. 
On admission, she was restarted on Amiodarone. The beta-blocker 
was held in light of her hypotension but then restarted after a 
few days. Anti-coagulation was also held given the 
supratherapeutic INR and coumadin 1.5mg PO daily was restarted 
today when her INR was 2.1 (see details below).

4)Anemia: Baseline hematocrit per OMR is low to mid 30's. She 
was transfused 2 units pRBCs in light of her hypotension. She 
was also maintained on iron supplements. Her HCT has since been 
stable.

5)Coagulopathy: Patient presented with elevated INR on 
admission. Remains elevated on transfer to medical floor. Likely 
___ antibiotics she had received. She was restarted on coumadin 
1.5mg PO daily today and should have daily INRs while at rehab 
given her c. diff history, amlodipine, and antibiotic regimen.

6)Non anion gap acidosis: Likely ___ diarrheal losses and she 
appears to be compensating based on the pH. Her bicarbonate 
level was followed daily. 

7)Hypertension: Her outpatient anti-hypertensive regimen was 
initially held given hypotension and sepsis. The beta-blocker 
was restarted after her hypotension resolved.  On several 
occasions in the last few days we have administered her 
beta-blocker despite SBP in the high ___ in order to control her 
heart rate as she has A fib and diastolic heart failure. 
 
Medications on Admission:
Aspirin 325mg PO daily
Clotrimazole 1% cream BID 
Acetaminophen 325-650mg PO Q6H PRN  
Ferrous Sulfate 325mg PO daily 
Warfarin PO daily
Metoprolol Tartrate 50mg PO TID
Atrovent neb
Lasix 20mg PO BID 
Lansoprazole 30mg PO BID
Amiodarone 200mg PO daily
 
Discharge Medications:
___ Sulfate 325 mg PO DAILY    
2.Ipratropium Bromide  0.02 % Solution 1 Inhalation Q6H PRN
3.Amiodarone 200 mg Tablet PO DAILY     
4.Sodium Chloride 0.9 % Syringe 10 ML Injection daily and PRN as 
needed for line flush.     
5.Acetaminophen 325 mg Tablet ___ Tablets PO Q8H PRN   
6.Dextromethorphan-Guaifenesin ___ mg/5 mL Syrup 5 ML PO Q6H 
as needed for cough.     
___ Tartrate 50 mg PO TID    
8.Trazodone 25 mg Tablet PO HS
9.Benzonatate  100 mg Capsule  Sig:  One (1) Capsule PO TID (3 
times a day).     
___ 20 mg Tablet PO BID     
11.Warfarin 1 mg Tablet, 1.5 Tablets PO DAILY     
12.Vancomycin 125 mg Capsule PO Q6H for 7 days
125mg PO twice daily for 6 days (last dose q6hrs is on ___
125mg once daily for 7 days 
125mg every other day for 7 days 
125mg every 3 days for 14 days     
13.Lansoprazole 30 mg Capsule PO BID    
___ in NaCl (Iso-os) 500 mg/100 mL Piggyback, One 
Intravenous Q8H for 9 days: Last dose to be given on ___ 
Total duration was 14 days.     
15. Aspirin 325 mg Tablet PO daily 
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
1. c. diff sepsis
2. Acute on chronic diastolic heart failure
. 
Secondary diagnosis:
1. A fib
2. Coagulopathy
3. Anemia
4. Hypertension

 
Discharge Condition:
Good.  Diarrhea is improving.

 
Discharge Instructions:
You were admitted with c. diff sepsis.  You were treated with IV 
fluids and with flagyl IV and PO vancomycin.  Your infection has 
greatly improved and you need to finish a two week course of IV 
flagyl (last day ___ and you will take PO vancomycin for the 
next 6 weeks with the following taper:
125mg PO four times daily for 6 days (last dose q6hrs is on 
___
125mg PO twice daily for 7 days
125mg once daily for 7 days
125mg every other day for 7 days
125mg every 3 days for 14 days
.
Your Coumadin was held during your hospitalization because your 
INR was supertherapeutic.  You are being discharged on Coumadin 
1.5mg PO daily and you should have your INR followed daily at 
rehab as you are on a number of medications that can make your 
INR.
.
Please note we changed the doses of the following medications:
Coumadin.
.
We have started you on the following new medications:
1. Flagy IV
2. Vancomycin PO
3. Dextromethorphan-Guaifenesin ___ mg/5 mL Syrup 5 ML PO Q6H 
as needed for cough.       
4.Trazodone 25 mg Tablet PO HS
5.Benzonatate 100 mg Capsule One Capsule PO TID for cough.    
.
You have been discharged on all your other home medications at 
their usual doses.
.
Please keep pt on telemetry for A fib
.
Please return to the hospital if you develop worsening diarrhea, 
abdominal pain, fevers, bleeding, shortness of breath, or chest 
pain.
 
Followup Instructions:
___